US05519133
Preparation of N-[(4,5-Difluoro-2-nitrophenyl)carbamoyl]glycine methyl ester
A solution of 4,5-difluoro-2-nitroaniline (1.07 g, 6.15 mmol) in tetrahydrofuran is cooled to 2° C., treated with phosgene (3.8 mL, 1.93M, 7.33 mmol), stirred at ice-bath temperature for 2 hours, treated with glycine methyl ester hydrochloride (1.02 g, 8.12 mmol), treated with pyridine (1 mL, 12.64 mmol), stirred at room temperature for 3 days, diluted with concentrated ammonia solution and water, and extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and an ethyl acetate/hexanes (1:3) solution gives the title product as a solid, mp 118.9°-122.9° C.

reactant | 4,5-difluoro-2-nitroaniline | 6.15 mmol, 1.07 g | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | phosgene | 7.33 mmol, 1.93M, 3.8 mL | C(=O)(Cl)Cl | CCl2O
reactant | glycine methyl ester hydrochloride | 8.12 mmol, 1.02 g | Cl.COC(CN)=O
reactant | pyridine | 12.64 mmol, 1 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ammonia | N | H3N
solvent | water | O | H2O
product | N-[(4,5-Difluoro-2-nitrophenyl)carbamoyl]glycine methyl ester | COC(CNC(NC1=C(C=C(C(=C1)F)F)[N+](=O)[O-])=O)=O | C10H9F2N3O5
